US04435585
1420 g of 1-(p-tert.butylphenyl)-2-formyl-1-propene, prepared as described in paragraph (e), are mixed together with 6 g of 5% palladium/carbon and 6.8 g of soda in 20 ml of water at 70°-75° C. in a stirring autoclave. The autoclave is charged with hydrogen (8 atmospheres) and heated to 110° C. About 230 liters of hydrogen are absorbed after 12 hours. The crude 3-(p-tert.butyl-phenyl)-2-methyl-propionaldehyde is treated with ether, washed neutral with water and dried over sodium sulphate. After removing the ether, the product is fractionally distilled in vacuo. After separating a first running and a last running, there are obtained 1275 g of 3-(p-tert.butylphenyl)-2-methyl-propionaldehyde in 95% purity (about 88% of theory). Boiling point: 150°-152° C./15 mmHg; nD20 =1.5050.

reactant | 1-(p-tert.butylphenyl)-2-formyl-1-propene | 1420 g | C(C)(C)(C)C1=CC=C(C=C1)C=C(C)C=O | C14H18O
reactant | hydrogen | [H][H] | H2
solvent | water | 20 ml | O | H2O
catalyst | palladium/carbon | 6 g | [Pd] | Pd
product | 3-(p-tert.butylphenyl)-2-methyl-propionaldehyde | 1275 g | C(C)(C)(C)C1=CC=C(C=C1)CC(C=O)C | C14H20O
